US05726172
To a stirred solution of methyl 4-(4-chromanoyloxy)-2-methoxybenzoate (260 mg, 0.82 mmol) in THF:H2O (4 mL:0.8 mL) was added LiOH.H2O (172 mg, 4.1 mmol). The reaction was heated to 45° C. over 12 h and then cooled to ambient temperature. The solvent was removed under reduced pressure. The crude solid was passed through a small plug of silca gel packed in 90:10 CH2Cl2 :MeOH(NH3) and eluted with same. The solvent was removed under reduced pressure to afford 4-(4-chromanoyloxy)-2-methoxybenzoic acid as a foam.

reactant | methyl 4-(4-chromanoyloxy)-2-methoxybenzoate | 0.82 mmol, 260 mg | O1CCC(C2=CC=CC=C12)C(=O)OC1=CC(=C(C(=O)OC)C=C1)OC | C19H18O6
reactant | H2O | 4 mL | O | H2O
reactant | LiOH.H2O | 4.1 mmol, 172 mg | O[Li].O
solvent | THF | C1CCOC1 | C4H8O
product | 4-(4-chromanoyloxy)-2-methoxybenzoic acid | O1CCC(C2=CC=CC=C12)C(=O)OC1=CC(=C(C(=O)O)C=C1)OC | C18H16O6
